US08791132B2
Methanesulfonicacid2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester (300 mg, 0.75 mmol) was dissolved in 70% cyclobutylamine in water (6 mL) and heated at 100° C. for 18 h. The reaction mixture was concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtained 90 mg of cyclobutyl-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl]-amine as the TFA salt. 1H NMR (CD3OD, TFA salt): δ (ppm): 8.6 (dd, 2H), 7.63 (d, 1H), 7.54 (d, 1H), 7.19 (s, 1H), 7.10 (d, 1H), 6.99 (d, 1H), 4.82 (m, 2H), 4.72 (m, 1H), 4.6 (m, 1H), 4.23 (t, 1H), 3.8 (m, 2H), 3.5 (m, 1H), 3.2 (m, 1H), 3.07 (d, 3H), 2.7 (m, 1H), 2.37 (s, 3H), 2.5 (m, 3H), 2.1 (m, 1H), 1.8 (m, 2H). Chiral HPLC separated the racemate into enantiomers II-13a-b.

reactant | Methanesulfonicacid2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester | 0.75 mmol, 300 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)OS(=O)(=O)C)CC1 | C21H25N3O3S
reactant | cyclobutylamine | C1(CCC1)N | C4H9N
solvent | water | 6 mL | O | H2O
product | cyclobutyl-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl]-amine | 90 mg | C1(CCC1)NC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2 | C24H30N4
